US04772600
2-(4-Methoxyphenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid ethyl ester
Solid N-[3-[(4-methoxybenzoyl)amino]-2-pyridinyl]glycine ethyl ester, 12.8 g (0.039 mole) was heated in glass in a Wood's metal bath at 210°-220° C. for 6 minutes. The residue was dissolved in methylene chloride, treated with charcoal, and filtered through a Celite pad. The filtrate (dark orange) was treated with Florisil® to give a pale orange filtrate. The filtrate was evaporated to a solid, which was recrystallized from tetrahydrofuran-petroleum ether. The solid was collected, washed with tetrahydrofuran-petroleum ether and dried under high vacuum at 50° C. overnight to give 3.58 g (29.5%) of title compound, mp 107°-8° C.

reactant | N-[3-[(4-methoxybenzoyl)amino]-2-pyridinyl]glycine ethyl ester | C(C)OC(CNC1=NC=CC=C1NC(C1=CC=C(C=C1)OC)=O)=O | C17H19N3O4
reactant | charcoal | C | CH4
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-(4-Methoxyphenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid ethyl ester | 3.58 g, 29.5% | C(C)OC(CN1C(=NC=2C1=NC=CC2)C2=CC=C(C=C2)OC)=O | C17H17N3O3
